US06015825
2-(2,4-Difluorophenyl)-3-(4-[1,2,3-triazol-4-yl]phenyl)-1-(1,2,4-triazol-1-yl)butan-2-ol
A solution of 2-(2,4-difluorophenyl)-3-(4-[1-benzyl-1,2,3-triazol-5-yl]phenyl)-1-(1,2,4-triazol-1-yl)-3-buten-2-ol(0.15 g,0.3 mmol-see Preparation 43) in methanol (100 ml) was hydrogenated at 50 psi (333 kPa) pressure over 10% palladium on charcoal (0.1 g) for 18 hours at 100° C. The cooled mixture was filtered through "Arbocel" and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography on silica by elution with dichloromethane/methanol (19:1). Fractions containing the desired product were combined and evaporated under reduced pressure to yield the title compound as a gum (0.1 g, 81%). The product was a mixture of diastereomers by NMR.

reactant | 2-(2,4-difluorophenyl)-3-(4-[1-benzyl-1,2,3-triazol-5-yl]phenyl)-1-(1,2,4-triazol-1-yl)-3-buten-2-ol | 0.3 mmol, 0.15 g | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(=C)C1=CC=C(C=C1)C1=CN=NN1CC1=CC=CC=C1)O | C27H22F2N6O
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on charcoal | 0.1 g | [Pd] | Pd
product | 2-(2,4-Difluorophenyl)-3-(4-[1,2,3-triazol-4-yl]phenyl)-1-(1,2,4-triazol-1-yl)butan-2-ol | 0.1 g, 81% | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(C)C1=CC=C(C=C1)C=1N=NNC1)O | C20H18F2N6O
